US05385925
4'-[[2-n-Butyl-6-(N-methyl-phenylaminocarbonylamino)-benzimidazol-1-yl]-methyl]biphenyl-2-carboxylic acid
A solution of 0.8 g (2.00 mMol) of 4'-[[2-n-butyl-6-aminobenzimidazol-1-yl]-methyl]biphenyl-2-carboxylic acid and 0.9 g of N-methyl-isatoic acid anhydride in 3 ml of pyridine is refluxed for 48 hours, then evaporated to dryness, the residue is suspended in about 5 ml of methylene chloride, suction filtered, washed with a further 5 ml of methylene chloride and dried.

reactant | 4'-[[2-n-butyl-6-aminobenzimidazol-1-yl]-methyl]biphenyl-2-carboxylic acid | 2.00 mMol, 0.8 g | C(CCC)C1=NC2=C(N1CC1=CC=C(C=C1)C=1C(=CC=CC1)C(=O)O)C=C(C=C2)N | C25H25N3O2
reactant | N-methyl-isatoic acid anhydride | 0.9 g | CN1C=2C(C(=O)OC1=O)=CC=CC2 | C9H7NO3
reactant | pyridine | 3 ml | N1=CC=CC=C1 | C5H5N
product | 4'-[[2-n-Butyl-6-(N-methyl-phenylaminocarbonylamino)-benzimidazol-1-yl]-methyl]biphenyl-2-carboxylic acid | C(CCC)C1=NC2=C(N1CC1=CC=C(C=C1)C=1C(=CC=CC1)C(=O)O)C=C(C=C2)N(C)C(=O)NC2=CC=CC=C2 | C33H32N4O3
